US06608059B1
a) 1-(3-Cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic Acid Diethylamide
1-(3-Cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic acid (0.10 g, 0.25 mmol), from Example 2(a), was dissolved in dimethylformamide (15 mL). PyBroP (bromo-tris-pyrrolidino-phosphonium hexafluorophosphate) (0.13 g, 0.27 mmol) was added followed by diethylamine (0.054 g, 0.74 mmol), diisopropylethylamine (0.13 g, 0.99 mmol), and a catalytic amount of N,N-dimethylaminopyridine. The reaction mixture was stirred for 18 h under argon at ambient temperature. The solution was diluted with dichloromethane and washed with water (3X) and brine. The organic layer was dried over MgSO4, filtered, and the solvent removed under reduced pressure. Purification by flash chromatography (silica gel, 30% ethyl acetate/hexanes) yielded a white solid (0.078 g, 69%). MS(ES) m/e 458.2 [M +H]+.

reactant | 1-(3-Cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic acid | 0.25 mmol, 0.10 g | C(#N)CCCN1C(=CC2=CC(=CC=C12)OCC1=C(C=CC=C1Cl)Cl)C(=O)O | C20H16Cl2N2O3
reactant | PyBroP | 0.27 mmol, 0.13 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diethylamine | 0.74 mmol, 0.054 g | C(C)NCC | C4H11N
reactant | diisopropylethylamine | 0.99 mmol, 0.13 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3-Cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic Acid Diethylamide | 0.078 g, 69% | C(C)N(C(=O)C=1N(C2=CC=C(C=C2C1)OCC1=C(C=CC=C1Cl)Cl)CCCC#N)CC | C24H25Cl2N3O2
